US07776910B2
A solution of formaldehyde (37% in water, 1.47 mL, 19.53 mmol) was added to a solution of 3-[4-(4-methoxy-benzenesulfonyl)-2-methyl-phenyl]-pyrrolidine (0.20 g, 0.6301 mmol) in MeOH (2 mL) and the reaction mixture was heated at reflux for 30 minutes. The mixture was cooled to 0° C. and NaBH4 (0.833 g, 22.05 mmol) was slowly added. The mixture was allowed to reach room temperature and it was stirred for an additional hour. The solvent was evaporated under reduced pressure and the residue was partitioned between water and DCM. The organic layer was separated and washed with water and brine, dried over Na2SO4, filtered and evaporated under reduced pressure. The resulting crude material was purified via flash chromatography (DCM/MeOH/NH4OH) to give 0.167 g (77% yield) of 3-[4-(4-methoxy-benzenesulfonyl)-2-methyl-phenyl]-1-methyl-pyrrolidine as a white foam: MS (M+H)=346.

reactant | formaldehyde | 19.53 mmol, 1.47 mL | C=O | CH2O
reactant | 3-[4-(4-methoxy-benzenesulfonyl)-2-methyl-phenyl]-pyrrolidine | 0.6301 mmol, 0.20 g | COC1=CC=C(C=C1)S(=O)(=O)C1=CC(=C(C=C1)C1CNCC1)C | C18H21NO3S
reactant | NaBH4 | 22.05 mmol, 0.833 g | [BH4-].[Na+]
solvent | MeOH | 2 mL | CO | CH4O
product | 3-[4-(4-methoxy-benzenesulfonyl)-2-methyl-phenyl]-1-methyl-pyrrolidine | 0.167 g, 77% yield | COC1=CC=C(C=C1)S(=O)(=O)C1=CC(=C(C=C1)C1CN(CC1)C)C | C19H23NO3S
